Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Adhesive Bandage / Dicloxacillin / Linezolid
 
Attending: ___
 
___ Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This is ___ yo m w/ hx cirrhosis secondary to EtOH + HCV, OSA, 
PAH and hypothyroidism, w/ recurrent episodes of severe 
enceophalopathy and ascites well-known to the MICU who was 
transferred from the Liver service for encephalopathy.  
.  
Mr. ___ has been at rehab since discharge from ___ on 
___. Per his mother he has been having more frequent 
encephalopathic episodes this month. Over the past few days she 
reports that ___ has been in good health without fevers, night 
sweats, n/v, or abdominal pain. Over the last few days he has 
been having ~6BMs/day. Notably, she reports the rehab would not 
increase the lactulose frequency from Q4hr which ___ often 
requires when he is becoming encephalopathic.  
.  
Notably, patient's most recent admission ___ was also for 
changes in mental status. He was found to have a Klebsiella 
bacteremia and UTI treated with 3 weeks of ceftriaxone ___, 
to complete on ___. Neurologic work-up demonstrated that he 
has a comunicating hydrocephalus, etiology of which remains 
unclear.  
.  
In the ED Vitals: 78 98/63 18 99% RA. He received 30mL of PO 
lactulose as well as Vanc/Cipro/Flagyl for question of 
infection.He received 2L NS. CXR with mild atelectasis. Duplex 
U/S showed flow in L portal vein, pt combative and this could 
not be completed.  
.  
In the ICU, patient able to follow directions though continued 
to have agitated outbursts. Denied any pain or discomfort.  

 
Past Medical History:
- End Stage Liver Disease ___ alcohol and hepatitis C. Currently 
on the transplant list. Course complicated by recurrent ascites, 
SBP, pulmonary hypertension. Currently on the transplant list 
(s/p aborted liver transplant given elevated pulmonary pressures 
in OR ___  
- Sepsis w/ Enterococcus Avium and Group B Step, recent 
discharge on ___  
- Spontaneous bacterial peritonitis early ___ on Cipro 
prophylaxis  
- Grade II esophageal varices  
- Recurrent hepatic encephalopathy on vegetarian diet  
- Pulmonary hypertension  
- Hypothyroidism  
- Anxiety disorder  
- History of alcohol and IVDU  
- Osteoporosis of hip and spine per pt  
- Anemia with history of guaiac positive stool  

 
Social History:
___
Family History:
Mother with diabetes and hypertension. Father with rheumatic 
heart disease. 
 
Physical Exam:
In MICU:
Gen: Awake, alert, agitated intermittently  
HEENT: dry MM, + scleral icterus  
Pulm: lungs clear bilaterally, no wheezes or rhonchi  
CV: S1 & S2 regular without murmur  
Abd: +BS, soft, non-tender, mildly-distended  
Ext: no lower extremity edema  
Neuro: Alert, unable to comply with neuro exam  

 
Pertinent Results:
___ 11:07PM   GLUCOSE-100 UREA N-39* CREAT-1.2 SODIUM-154* 
POTASSIUM-3.7 CHLORIDE-122* TOTAL CO2-25 ANION GAP-11
___ 11:07PM   ALT(SGPT)-20 AST(SGOT)-47* LD(LDH)-208 ALK 
PHOS-120* TOT BILI-7.8*
___ 11:07PM   ALBUMIN-3.3* CALCIUM-9.8 PHOSPHATE-2.8 
MAGNESIUM-1.7
___ 11:07PM   WBC-3.7* RBC-2.17* HGB-6.7* HCT-22.7* 
MCV-104* MCH-31.0 MCHC-29.7* RDW-21.5*
___ 11:07PM   NEUTS-76.5* LYMPHS-13.9* MONOS-6.7 EOS-2.7 
BASOS-0.2
___ 11:07PM   PLT COUNT-32*
___ 11:07PM   ___ PTT-53.0* ___
___ 05:09PM   LACTATE-1.3
___ 05:05PM URINE  BLOOD-SM NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 05:05PM URINE  ___ BACTERIA-FEW YEAST-NONE 
___

Imaging/Studies:  
CXR: Left and right mid lung subsegmental atelectasis. No focal  

consolidation or pulmonary edema.  
.  
ABD U/S: 1. Cirrhosis, ascites, splenomegaly.  
2. Limited doppler exam without evaluation of the main portal 
vein. If there is high clinical concern for vascular thrombosis, 
a CT is suggested. 3. Cholelithiasis.  
.  
ABD US ___. Flow within the main portal vein, now demonstrates a 
hepatofugal  
(reversed) directionality (as demonstrated on a prior study from 
___ although patent. Flow within the left portal vein 
could not be obtained no doppler evaluation either secondary to 
occlusion or very slow flow in this uncooperative patient.  
2. Shrunken cirrhotic liver consistent with known cirrhosis. 
Cholelithiasis with gallbladder wall edema/thickening unchanged 
over multiple comparisons likely secondary to third spacing from 
decompensated liver disease rather than acute cholecystitis.  
3. Large amount of intra-abdominal ascites.  
.  
Head CT ___: No interval change in moderate ventriculomegaly. 
No evidence of intracranial hemorrhage.  
.  
MRI Head ___: 1. Prominent lateral ventricles with evidence for 
transependymal CSF flow suggestive of communicating 
hydrocephalus; also prominence of the sulci suggestive of 
atrophy.  
2. No acute intracranial process.  
Unchanged diffuse hydrocephalus since ___ (new since ___ 
with mild transependymal CSF flow.  
.  
CSF Fluid: neg cryptococcal, fungal  
WBC ___, Polys 0, Lymphs ___ year old man with cirrhosis secondary to EtOH and HCV, 
complicated by recurrent ascites, history of SBP and esophageal 
varices, who has been hospital w/ recurrent episodes of 
encephalopathy presents with an episode of encephalopathy.
 .
# Recurrent encephalopathy:  Presentation secondary to 
inadequate bowel regimen while at rehab facility. Work up 
negative for infection (stool, blood, urine), GI bleed, and U/S 
failed to show significant ascites.  A CT of abdomen was done to 
evaluate questionable poor flow through the portal vein seen on 
US.  The CT was sig for patent portal vein.  Patient was treated 
with rifaximin and Q2hr lactulose and produced ~4L of stools per 
day.  Mental status improved to baseline on discharge.  Cipro 
was continued for SBP prophylaxis. He was also continued on his 
vegetarian diet.  A decision was made to discharge patient home 
w/ services as mother felt that she could provide better care at 
home.  Physical therapy was consulted who agreed that the 
patient could be discharged home.
.  
# Hypernatremia: Secondary to reduced access to free water in 
the setting of encephalopathy and high stool output. Resolved 
with free water replacement.
.  
# ESLD. Secondary EtOH and HCV. Patient initially presented with 
improved ascites and edema. An ultrasound of the abdomen showed 
poor flow through the portal vein, and CT of the abdomen was 
done for further assessment.  The CT demonstrated patent portal 
vein.  Patient was continued on his lactulose and rifaximin as 
above.  He was also continued on cipro for SBP ppx, his home 
diuretics and ppi.  Octreotide and midodrine were discontinued 
while in the ICU.  The patient's creatine remained stable off 
treatments.  Patient was ultimately disharged to home (see 
above).
.  
# H/o HRS: Octreotide and midodrine discontinued while in the 
ICU and were held throughout his hospital course. Creatinine 
stable off octreotide and midodrine.
.
# Anemia: Initial hct of 23 lower than baseline of ___. 
Patient hcts were followed throughout hospitalization and were 
stable. 
.  
# Thrombocytopenia: Stable and secondary to liver disease. 
.  
# Hypothyroidism: Stable, patient was continued on home 
levothyroxine.  
.  
# Pulmonary HTN: There were no active issues during his 
hospitalization and the patient was continued iloprost.
.
# Osteoporosis: Patient was continued on his home regimen of Vit 
D and Calcium   

 
Medications on Admission:
Clotrimazole 10 mg Troche Sig: One (1) Troche Mucous membrane  
5X/DAY (5 Times a Day).  
Ursodiol 300 mg Capsule Sig: Two (2) Capsule PO DAILY  
Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical TID  
(3 times a day) as needed for candidiasis.  
Levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY  
Rifaximin 200 mg Tablet Sig: Two (2) Tablet PO TID (3 times a  
day).  
Zinc Sulfate 220 mg Capsule Sig: One (1) Capsule PO DAILY  
Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2)  
Tablet PO DAILY (Daily).  
Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1)  
Tablet, Chewable PO DAILY (Daily).  
Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig:PO DAILY  
Lactulose 10 gram/15 mL Syrup Sig: ___ MLs PO QID  
Octreotide Acetate 100 mcg/mL Solution Sig:Q8H  
Iloprost 10 mcg/mL Solution for Nebulization Sig:Inhalation 
6x/day  
Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY  
Spironolactone 25 mg Tablet Sig: One (1) Tablet PO DAILY  
Midodrine 10 mg Tablet Sig: TID  
Simethicone 80 mg Tablet, Chewable Sig: ___ Tablet,  

 
Discharge Medications:
1. Clotrimazole 10 mg Troche Sig: One (1) Troche Mucous membrane 
QID (4 times a day): No script given.
Disp:*0 Troche(s)* Refills:*0*
2. Ursodiol 300 mg Capsule Sig: Two (2) Capsule PO QAM (once a 
day (in the morning)): No script given.
Disp:*0 Capsule(s)* Refills:*0*
3. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical TID 
(3 times a day): No script given.
Disp:*0 bottle* Refills:*0*
4. Levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): No script given.
Disp:*0 Tablet(s)* Refills:*0*
5. Rifaximin 200 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day): No script given.
Disp:*0 Tablet(s)* Refills:*0*
6. Zinc Sulfate 220 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily): No script given.
Disp:*0 Capsule(s)* Refills:*0*
7. Simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QID (4 times a day) as needed for bloating: No 
script given.
Disp:*0 Tablet, Chewable(s)* Refills:*0*
8. Iloprost 10 mcg/mL Solution for Nebulization Sig: One (1) ML 
Inhalation q4hr (): No script given.
Disp:*0 ML(s)* Refills:*0*
9. Lactulose 10 gram/15 mL Syrup Sig: ___ MLs PO Q2H (every 2 
hours) as needed for encephalopathy: For ___ Bowel Movements per 
day.
Disp:*0 ML(s)* Refills:*0*
10. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours): No script given.
Disp:*0 Tablet(s)* Refills:*0*
11. Zinc Sulfate 220 mg Tablet Sig: One (1) Tablet PO once a 
day: No script given.
Disp:*0 Tablet(s)* Refills:*0*
12. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day: No script given.
Disp:*0 Capsule, Delayed Release(E.C.)(s)* Refills:*0*
13. Calcium Carbonate-Vitamin D3 500 mg(1,250mg) -400 unit 
Tablet Sig: One (1) Tablet PO once a day.  
14. Tubefeeding
Tubefeeding: Nutren 2.0 Full strength
Rate: 35 ml/hr; Do not advance rate
Goal rate: 35 ml/hr
Flush w/ 250 ml water q2H
15. Outpatient Physical Therapy
To continue with home physical therapy

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Hepatic Encephalopathy
Secondary: history of SBP, Grade II esophageal varices, 
Pulmonary hypertension, Hypothyroidism, Osteoporosis, Anemia

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were seen in the hospital for your confusion.  This was 
because of your liver disease and we treated you with lactulose. 
 We did an ultrasound of your abdomen that did not show 
worsening ascites but showed poor flow through the portal vein. 
CT of your abdomen however showed a patent portal vein.  While 
you were in the hospital, we replaced your feeding tube.  Your 
mental status improved to baseline on discharge.

We have made the changes to your home medications:
1. You do not need to take lasix, midodrine and octreotide
2. Please continue the rest of your home medications.

Please return to the emergency room if you should experience 
further confusion, severe abdominal pain, fevers > 101, or any 
concerning symptoms. 
 
Followup Instructions:
___